US05455253
2-Methyl-4-(3-trifluoromethylphenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone.
A mixture of 4-(3-trifluoromethylphenyl)-3-butene-2-one (4.9 g), 1,3-cyclohexanedione (2.68 g), ammonium acetate (2.65 g) and 75 mL of ethanol were heated at reflux for eight hours and then cooled to room temperature. The solvent was evaporated and the residue was partitioned between water and ethyl acetate. The organic layer was dried, filtered, and evaporated to yield a yellow solid. Recrystallization from ethyl acetate provided the title compound (2.8 g) as an off-white solid; mp 184°-185° C.; NMR: 1.74 (s,3, CH3), 1.87-1.98 (m,2, CH2), 2.13-2.19 (m,2, CH2), 2.42-2.49 (m,2, CH2) 4.50 (d,1, J=4.9, CH), 4.63 (d,1, J=4.9, CH), 7.45 (s,4, Ar), 8.53 (s,1, NH); (CI, CH4) MS: m/z=308(M+1). Analysis for C17H16F3NO: Calculated C, 66.44; H, 5.25; N, 4.56; Found: C, 65.90; H, 5.33; N, 4.43.

reactant | 4-(3-trifluoromethylphenyl)-3-butene-2-one | 4.9 g | FC(C=1C=C(C=CC1)C=CC(C)=O)(F)F | C11H9F3O
reactant | 1,3-cyclohexanedione | 2.68 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | ammonium acetate | 2.65 g | C(C)(=O)[O-].[NH4+]
solvent | ethanol | 75 mL | C(C)O | C2H6O
product | 2-Methyl-4-(3-trifluoromethylphenyl)-4,6,7,8-tetrahydro-5(1H)-quinolone | 2.8 g | CC=1NC=2CCCC(C2C(C1)C1=CC(=CC=C1)C(F)(F)F)=O | C17H16F3NO
